Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Iodine
 
Attending: ___.
 
Chief Complaint:
Exertional dyspnea
 
Major Surgical or Invasive Procedure:
___ Five Vessel Coronary Artery Bypass Grafting (left 
internal mammary artery to left anterior descending with 
saphenous vein grafts to diagonal, first obtuse marginal, second 
obtuse marginal and PDA)
 
History of Present Illness:
Mr. ___ is a ___ year old male with known CAD who was 
admitted to ___ on ___ with complaints of dyspnea 
with minimal exersion. He reports symptoms have been ongoing for 
___ weeks. He also reports a few isolated incidents of chest 
pressure. Stress test revealed evidence of prior MI with 
inducible ischemia at achieved workload. He was transferred to 
___ for pre hydration due to baseline elevated creatinine 
followed by a cardiac catheterization. He was found to have 
multivessel coronary artery disease and was referred for 
surgical revascularization.
 
Past Medical History:
1. CAD: s/p PCI to LAD, last cath ___. Prior MI and History of 
VF arrest.
2. Type II Diabetes Mellitus: followed at ___, poor diet 
compliance per wife, last HgA1C 10.0 (___)
3. ___
4. Hyperlipidemia: in ___- Tchol 213, ___ 345, HDL 36, LDL 122
5. CKD: baseline creatinine 1.3-1.7
6. OSA: on CPAP (unknown settings- ___ or ___ per ___ sleep 
study) at home
7. Obesity
8. GERD
9. Melanoma (s/p excision x5)
10. Neuropathy
11. Depression
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
PREOP EXAM

Pulse:54   Resp:18    O2 sat:96/RA 
BP  Right:150/61    Left:151/64 
___     Weight:242 lbs

General: awake alert oriented
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally but with some fine crackles at
both bases.
Heart: RRR [x]  Irregular []  Murmur
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  
min Edema; some small superficial varicose veins.
Neuro: Grossly intact
Pulses:
Femoral      Right: 1+  Left: 2+
DP           Right: 1+  Left: 1+
___           Right: 1+  Left: 2+
Radial       Right: 2+  Left: 2+

Carotid Bruit        Right: no   Left: very soft bruit
 
Pertinent Results:
___ Echo: PRE-CPB:1. The left atrium is normal in size. No 
thrombus is seen in the left atrial appendage. 2. No atrial 
septal defect is seen by 2D or color Doppler. 3. Left 
ventricular wall thicknesses are normal. The left ventricular 
cavity size is normal. Overall left ventricular systolic 
function is normal (LVEF>55%). 4. Right ventricular chamber size 
and free wall motion are normal. 5. The ascending, transverse 
and descending thoracic aorta are normal in diameter and free of 
atherosclerotic plaque. There are simple atheroma in the 
descending thoracic aorta. 6. There are three aortic valve 
leaflets. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. Trace aortic regurgitation is 
seen. 7. Mild (1+) mitral regurgitation is seen. 
Dr. ___ was notified in person of the results. 
POST-CPB: On infusion of phenylephrine. AV pacing for long PR 
interval. Preserved biventricular systolic function post-cpb. 
LVEF = 65%. MR remains 1+. Aortic contour is normal post 
decannulation.

___ CXR: As compared to the previous radiograph, all 
monitoring and support devices have been removed, except for the 
right internal jugular vein insertion device. No evidence of 
pneumothorax. No pulmonary edema. No larger pleural effusions. 
Moderate cardiomegaly without pulmonary edema.

___ 03:24PM BLOOD WBC-10.9 RBC-2.39*# Hgb-7.4*# Hct-21.8*# 
MCV-91 MCH-30.9 MCHC-33.8 RDW-15.9* Plt ___
___ 05:50AM BLOOD WBC-7.3 RBC-2.80* Hgb-8.7* Hct-25.4* 
MCV-91 MCH-31.1 MCHC-34.3 RDW-15.6* Plt ___
___ 03:24PM BLOOD ___ PTT-24.9 ___
___ 04:23PM BLOOD ___ PTT-24.6 ___
___ 04:23PM BLOOD UreaN-38* Creat-1.9* Na-139 K-5.5* 
Cl-109* HCO3-24 AnGap-12
___ 05:50AM BLOOD Glucose-115* UreaN-47* Creat-1.7* Na-137 
K-4.4 Cl-100 HCO3-28 AnGap-13
___ 05:45AM BLOOD Calcium-9.3 Phos-3.4 Mg-2.3
___ 05:50AM BLOOD WBC-7.3 RBC-2.80* Hgb-8.7* Hct-25.4* 
MCV-91 MCH-31.1 MCHC-34.3 RDW-15.6* Plt ___
___ 05:50AM BLOOD Glucose-115* UreaN-47* Creat-1.7* Na-137 
K-4.4 Cl-100 HCO3-28 AnGap-13
 
Brief Hospital Course:
Mr. ___ was admitted and underwent coronary artery bypass 
grafting surgery by Dr. ___. For surgical details, please 
see operative note. Given he was a same day admission, Cefazolin 
was used for perioperative antibiotic coverage. Following 
surgery, he was brought to the CVICU for invasive monitoring. 
Within 24 hours, he awoke neurologically intact and was 
extubated without incident. On post-op day one he was started on 
beta-blockers and diuretics and gently diuresed towards his 
pre-op weight. Later this day he was transferred to the 
step-down floor for further care. Chest tubes and epicardial 
pacing wires were removed per protocol. He worked with physical 
therapy for strength and mobility.  His insulin was adjusted to 
his home regimen for better blood sugar control. His Plavix was 
resumed per his cardiologist with history of multiple coronary 
stents. By the time discharge on POD#4 he was ambulating with 
assistance, tolerating a full po diet and his incisions were 
healing well. He was discharged to ___ in ___ 
in stable condition with the appropriate medications and 
follow-up appointments.
 
Medications on Admission:
- ATENOLOL - 50 mg Tablet - 1 Tablet(s) by mouth once a day
- ATORVASTATIN [LIPITOR] - 80 mg Tablet - 1 Tablet(s) by mouth 
once a day
- CLOPIDOGREL [PLAVIX] - 75 mg Tablet - 1 Tablet(s) by mouth 
once a day, stopped on ___
- FENOFIBRATE NANOCRYSTALLIZED [TRICOR] - 145 mg Tablet - 1 
Tablet(s) by mouth once a day
- FLUTICASONE -  (Dose adjustment - no new Rx) - 50 mcg Spray, 
Suspension - ___ sprays(s) intranasal once a day as needed for 
nasal congestion/allergies
- FUROSEMIDE - 40 mg Tablet - 1 Tablet(s) by mouth once a day
- INSULIN LISPRO [HUMALOG] -  (Prescribed by Other Provider) - 
100 unit/mL Cartridge - use as directed twice a day 14units AM, 
28units suppertime
- LAMOTRIGINE [LAMICTAL] -  (Prescribed by Other Provider) - 150 
mg Tablet - 1 (One) Tablet(s) by mouth twice a day
- LISINOPRIL -  (Prescribed by Other Provider) - 40 mg Tablet - 
1 Tablet(s) by mouth twice a day
- NITROGLYCERIN [NITROSTAT] -  (Prescribed by Other Provider) - 
0.4 mg Tablet, Sublingual - 1 Tablet(s) sublingually as needed 
as needed for chest pain
- SPIRONOLACTONE -  (Prescribed by Other Provider) - 25 mg 
Tablet - 0.5 (One half) Tablet(s) by mouth once a day
- ASPIRIN - 325 mg Tablet - 1 Tablet(s) by mouth once a day 
- LORATADINE [CLARITIN] -  (Prescribed by Other Provider) - 10 
mg Tablet - 1 Tablet(s) by mouth once a day as needed
- MULTIVITAMIN-MINERALS-LUTEIN [CENTRUM SILVER] - Tablet - 1 
Tablet(s) by mouth daily
- NPH INSULIN HUMAN RECOMB [HUMULIN N PEN] -  (Prescribed by 
Other Provider) - 100 unit/mL (3 mL) Insulin Pen - 20 units q am 
and 3 u q hs twice a day
- OMEPRAZOLE MAGNESIUM [PRILOSEC OTC] - 20 mg Tablet, Delayed 
Release (E.C.) - 1 Tablet(s) by mouth once a day
 
Discharge Medications:
1. lamotrigine 100 mg Tablet Sig: 1.5 Tablets PO BID (2 times a 
day).  
2. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
5. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.  
6. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO HS (at bedtime) as needed for constipation.  
7. fenofibrate micronized 145 mg Tablet Sig: One (1) Tablet PO 
daily ().  
8. fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).  
9. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
10. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
12. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).  
13. furosemide 40 mg Tablet Sig: One (1) Tablet PO once a day 
for 2 weeks.  
14. potassium chloride 20 mEq Tablet, ER Particles/Crystals Sig: 
One (1) Tablet, ER Particles/Crystals PO once a day for 2 weeks. 
 
15. insulin lispro 100 unit/mL Cartridge Sig: as directed  
Subcutaneous twice a day: 14units AM, 28units suppertime.  
16. Humulin N Pen 100 unit/mL (3 mL) Insulin Pen Sig: as 
directed  Subcutaneous QAC&HS: 20 units qam and 3
u qhs
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease, s/p Coronary Artery Bypass Graft x 5
Past medical history:
Prior History of Myocardial Infarctions
Prior History of VF Arrest
Prior History of PCI/coronary stents
Hypertension
Dyslipidemia
Diabetes Mellitus Type II
Obesity
Obstructive sleep apnea
Chronic renal insufficiency
 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with Percocet
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left - healing well, no erythema or drainage.
1+ Edema
 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___